US06040339
N-(2-t-Butyl-5-carboxyphenyl)-3-(2,4-dimethoxyphenyl)octanamide
3.5 ml (7.0 mmol) of a 2 N aqueous solution of sodium hydroxide were added to a solution of 1.64 g (3.48 mmol) of N-(2-t-butyl-5-methoxycarbonylphenyl)-3-(2,4-dimethoxyphenyl)octanamide (prepared as described in Preparation 6) in 30 ml of methanol, and the resulting mixture was heated under reflux for 2 hours, after which the solvent was removed by distillation under reduced pressure. The residue was acidified with 2 N aqueous hydrochloric acid and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, after which it was dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was recrystallized from a mixture of ethyl acetate and hexane to give 1.13 g (yield 71%) of the title compound, melting at 153-154° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-(2-t-butyl-5-methoxycarbonylphenyl)-3-(2,4-dimethoxyphenyl)octanamide | 3.48 mmol, 1.64 g | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)OC)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C28H39NO5
solvent | methanol | 30 ml | CO | CH4O
product | N-(2-t-Butyl-5-carboxyphenyl)-3-(2,4-dimethoxyphenyl)octanamide | 1.13 g, yield 71% | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)O)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C27H37NO5
